US06734191B2
To a solution of 2-methoxy-6-methylbenzyl alcohol (0.96 g, 6.32 mmol) in CH2Cl2 (35 mL) was added triethylamine (2.00 mL, 14.35 mmol) followed by methanesulfonyl chloride (0.90 mL, 11.63 mmol) and the resultant solution was heated at 40° C. for 45 minutes then cooled to room temperature. The mixture was diluted with CH2Cl2 (35 mL), washed with brine (3×15 mL), dried (Na2SO4), and concentrated to provide a pale yellow solid. The solid (1.12 g) was dissolved in DMF (35 mL), treated with potassium phthalimide (2.62 g, 14.15 mmol), and heated at 80° C. overnight. The mixture was cooled to room temperature and diluted with EtOAc (70 mL), brine (35 mL), and water (20 mL). The phases were separated and the organic phase was washed with 1.0 N NaOH (6×10 mL) and brine (2×20 mL). The organic phase was dried (MgSO4) and concentrated to provide an pale yellow solid. The solid was rinsed with hexanes (3×10 mL) and provided 1.18 g (66%) of (2-methoxy-6-methylbenzyl)phthalimide as a white solid. 1H NMR (CDCl3) δ2.53 (s, 3H), 3.75 (s, 3H), 4.89 (s, 2H), 6.70 (d, 1H, J=8.4 Hz), 6.80 (d, 1H), J=7.5 Hz), 7.15 (dd, 1H, J=7.5, 8.4 Hz), 7.66-7.68 (m, 2H), 7.76-7.80 (m, 2H); —C NMR (CDCl3) δ20.27, 34.95, 55.90, 108.61, 122.38, 123.17, 123.41, 128.97, 132.60, 134.07, 139.55, 158.70, 168.36.

reactant | 2-methoxy-6-methylbenzyl alcohol | 6.32 mmol, 0.96 g | COC1=C(CO)C(=CC=C1)C | C9H12O2
reactant | triethylamine | 14.35 mmol, 2.00 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 11.63 mmol, 0.90 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium phthalimide | 14.15 mmol, 2.62 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
solvent | brine | 35 mL | [Cl-].[Na+].O
solvent | water | 20 mL | O | H2O
product | (2-methoxy-6-methylbenzyl)phthalimide | 1.18 g, 66% | COC1=C(CC2=C3C(C(=O)NC3=O)=CC=C2)C(=CC=C1)C | C17H15NO3
